US05120717
A solution of benanomicin A (82.7 mg) in a mixture of 10 ml of water and 1.1 ml of 0.1M NaOH was lyophilized. The residue was dissolved in 3 ml of methanol and chromatographed on a Sephadex LH-20 column (300 ml) developed with methanol to obtain benanomicin A sodium salt (75.8 mg).

reactant | benanomicin A | 82.7 mg | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)N[C@H](C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)O)O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)O | C39H41NO19
reactant | NaOH | 0.1M, 1.1 ml | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 3 ml | CO | CH4O
product | benanomicin A sodium salt | 75.8 mg | C[C@@H]1[C@@H]([C@@H]([C@H]([C@@H](O1)O[C@@H]2[C@H](C3=C(C4=C(C(=C(C=C24)C)C(=O)N[C@H](C)C(=O)O)O)C(=C5C(=C3)C(=O)C6=C(C=C(C=C6C5=O)OC)[O-])O)O)O)O[C@H]7[C@@H]([C@H]([C@@H](CO7)O)O)O)O.[Na+] | InChI=1S/C39H41NO19.Na/c1-10-5-17-23(30(48)20(10)36(52)40-11(2)37(53)54)22-15(8-16-24(31(22)49)27(45)14-6-13(55-4)7-18(41)21(14)26(16)44)28(46)34(17)58-39-33(51)35(25(43)12(3)57-39)59-38-32(50)29(47)19(42)9-56-38;/h5-8,11-12,19,25,28-29,32-35,38-39,41-43,46-51H,9H2,1-4H3,(H,40,52)(H,53,54);/q;+1/p-1/t11-,12-,19-,25+,28+,29+,32-,33-,34+,35+,38+,39+;/m1./s1
